US04349556
5.7 g (0.1 mol) of methyl isocyanate and a few drops of dibutyl-tin dilaurate were added to 25.8 g (0.1 mol) of 1-(2,4-dichlorophenyl)-1-hydroxy-2-(imidazol-1-yl)-ethane in 250 ml of benzene, while stirring. The mixture was stirred overnight at 60°-65° C. It was then allowed to cool and the crystalline precipitate was filtered off and rinsed with ether. 25.5 g (81% of theory) of 1-(2,4-dichlorophenyl)-2-(imidazol-1-yl)-methylcarbamoyloxy-ethane of melting point 106°-108° C. were obtained.

reactant | methyl isocyanate | 0.1 mol, 5.7 g | CN=C=O | C2H3NO
reactant | 1-(2,4-dichlorophenyl)-1-hydroxy-2-(imidazol-1-yl)-ethane | 0.1 mol, 25.8 g | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)O | C11H10Cl2N2O
catalyst | dibutyl-tin dilaurate | a few drops | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 1-(2,4-dichlorophenyl)-2-(imidazol-1-yl)-methylcarbamoyloxy-ethane | 25.5 g, 81% | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)OC(NC)=O | C13H13Cl2N3O2
